US07074790B2
trans-4-tert-Butylcyclohexanecarbonyl chloride
11.0 g (59.7 mmol) trans-4-tert-Butylcyclohexanecarboxylic acid are dissolved in 400 ml dichloromethane plus a few drops of DMF, 9.09 g (71.6 mmol) ethanedioyl dichloride are added and the solution is stirred at room temperature for one hour. The mixture is then stirred at reflux for two hours and, after cooling down to room temperature, evaporated to dryness in vacuo. The residue is then dissolved in toluene two times and again evaporated to dryness in vacuo. The residue is used in the next step without further purification.

reactant | trans-4-tert-Butylcyclohexanecarboxylic acid | 59.7 mmol, 11.0 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)C(=O)O | C11H20O2
reactant | ethanedioyl dichloride | 71.6 mmol, 9.09 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | trans-4-tert-Butylcyclohexanecarbonyl chloride | C(C)(C)(C)[C@@H]1CC[C@H](CC1)C(=O)Cl | C11H19ClO
